US04818761
(a) Preparation of 1-ethyl-2-chloromethyl-5-methyl benzimidazole
2-amino-4-methyl-N-ethylaniline (2.15 g, 14 mmol), which is a known compound, hydrochloric acid (4N, 15 ml) and monochloroacetic acid (2 g, 21 mmol) were refluxed for 2.5 hours. After cooling, the reactant was neutralized with ammonia. The occurred oily substance was extracted with ethyl acetate and the product was treated as in a usual process to obtain the title intermediate (1.0 g, 3.9 mmol).

reactant | 2-amino-4-methyl-N-ethylaniline | 14 mmol, 2.15 g | NC1=C(NCC)C=CC(=C1)C | C9H14N2
reactant | hydrochloric acid | 4N, 15 ml | Cl | ClH
reactant | monochloroacetic acid | 21 mmol, 2 g | ClCC(=O)O | C2H3ClO2
reactant | ammonia | N | H3N
product | 1-ethyl-2-chloromethyl-5-methyl benzimidazole | 3.9 mmol, 1.0 g | C(C)N1C(=NC2=C1C=CC(=C2)C)CCl | C11H13ClN2
